US06369056B1
To a solution of 2-amino-nicotinic acid (10 g, 72.5 mmol) in acetic acid (70 mL) was dropwise added bromine (9.8 mL, 79.8 mmol) at room temperature under nitrogen. Upon completion of the reaction, the solvent was removed in vacuo, the residue triturated with ether and collected on a filter to give 2-amino-5-bromo-3-pyridine carboxylic acid as a yellow solid (15.7 g, 99%): mp 272° C., (decomposed); 1H-NMR (DMSO-d6) δ8.8-7.8 (bs, 2H), 8.44 (d, 1H, J=2.48 Hz), 8.34 (d, 1H, J=2.48 Hz); MS (EI) m/z 216/218 ([M+]+, 100%)

reactant | 2-amino-nicotinic acid | 72.5 mmol, 10 g | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | bromine | 79.8 mmol, 9.8 mL | BrBr | Br2
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
product | 2-amino-5-bromo-3-pyridine carboxylic acid | 15.7 g, 99% | NC1=NC=C(C=C1C(=O)O)Br | C6H5BrN2O2
